US06826033B2
In 4N hydrogen chloride in ethanol (2.0 ml), tert-butyl N-[(2S)-2-hydroxy-3-phenoxypropyl]-N-[(1S)-2-hydroxy-1-[4-[(1H-pyrrol-3-ylcarbonyl)amino]benzyl]ethyl]carbamate (113.5 mg) was dissolved and the solution was stirred at room temperature for 30 hours. After concentration under reduced pressure, the residue was extracted with ethyl acetate (20 ml) and washed with saturated sodium hydrogencarbonate aqueous solution (20 ml). The organic layer was separated and the aqueous layer was extracted twice with ethyl acetate (20 ml). The organic layers were combined and washed with brine, and dried over magnesium sulfate to give N-[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]propyl]-phenyl]-1H-pyrrole-3-carboxamide (18.2 mg) as a yellow solid.

reactant | tert-butyl N-[(2S)-2-hydroxy-3-phenoxypropyl]-N-[(1S)-2-hydroxy-1-[4-[(1H-pyrrol-3-ylcarbonyl)amino]benzyl]ethyl]carbamate | 113.5 mg | O[C@@H](CN(C(OC(C)(C)C)=O)[C@H](CO)CC1=CC=C(C=C1)NC(=O)C1=CNC=C1)COC1=CC=CC=C1 | C28H35N3O6
solvent | hydrogen chloride | 4N | Cl | ClH
solvent | ethanol | 2.0 ml | C(C)O | C2H6O
product | N-[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]propyl]-phenyl]-1H-pyrrole-3-carboxamide | 18.2 mg | OC[C@H](CC1=CC=C(C=C1)NC(=O)C1=CNC=C1)NC[C@@H](COC1=CC=CC=C1)O | C23H27N3O4
